US07687503B2
1.4. 2-(methylamino)-2-oxoethyl 4-{4′-[(trifluoro-methyl)oxy]-4-biphenylyl}-1-piperazinecarboxylate
7.10 ml (14.15 mmol) of a solution of methylamine (2M) in tetrahydrofuran are added to a solution of 1.60 g (3.54 mmol) of 2-(ethyloxy)-2-oxoethyl 4-{4′-[(trifluoro-methyl)oxy]-4-biphenylyl}-1-piperazinecarboxylate, prepared in step 1.3., in 14 ml of methanol. Stirring is continued at room temperature for 12 hours. After concentrating under reduced pressure, the residue obtained is purified by chromatography on silica gel, eluting with a 97/3 mixture of dichloromethane and methanol. A solid is obtained, and is recrystallized from a mixture of ethyl acetate and diisopropyl ether. 0.86 g of pure product is thus obtained in the form of a white solid.

reactant | methylamine | 2M | CN | CH5N
reactant | 2-(ethyloxy)-2-oxoethyl 4-{4′-[(trifluoro-methyl)oxy]-4-biphenylyl}-1-piperazinecarboxylate | 3.54 mmol, 1.60 g | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C22H23F3N2O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
product | 2-(methylamino)-2-oxoethyl 4-{4′-[(trifluoro-methyl)oxy]-4-biphenylyl}-1-piperazinecarboxylate | 0.86 g | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C21H22F3N3O4
